US06376491B1
2-(4-Allyloxy-3-methyl-benzofuran-2-yl)-thiazole-4-carboxylic acid ethyl ester (28 mg) in 80% aqueous ethanol (6 ml) was stirred in the presence of chlorotris(triphenylphosphine)rhodium (3 mg) and triethylenediamine (2 mg) at 90° C. for 6 hours. The reaction mixture was poured into 1N aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave 2-(4-hydroxy-3-methyl-benzofuran-2-yl)-thiazole-4-carboxylic acid ethyl ester as a white solid (21 mg). FAB-MS: m/z 304 (MH+).

reactant | 2-(4-Allyloxy-3-methyl-benzofuran-2-yl)-thiazole-4-carboxylic acid ethyl ester | 28 mg | C(C)OC(=O)C=1N=C(SC1)C=1OC2=C(C1C)C(=CC=C2)OCC=C | C18H17NO4S
reactant | triethylenediamine | 2 mg | C1CN2CCN1CC2 | C6H12N2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | chlorotris(triphenylphosphine)rhodium | 3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 2-(4-hydroxy-3-methyl-benzofuran-2-yl)-thiazole-4-carboxylic acid ethyl ester | 21 mg | C(C)OC(=O)C=1N=C(SC1)C=1OC2=C(C1C)C(=CC=C2)O | C15H13NO4S
